Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Prochlorperazine
 
Attending: ___.
 
Chief Complaint:
Headache, tongue tingling, Right eye blurry vision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo ___ woman who presents with
headache, right eye monocular blurry vision, and abnormal tongue
sensation.
Ms. ___ has a distant history of headache several years ago,
seen by ___ neurology at the time, diagnosed with
either migraine or trigeminal neuralgia. She received some nerve
site injections that helped, but then remained headache free for
several years.
Now, she has had headache off and on since ___ afternoon. It
is constant diffuse/frontal pressure. It was present ___
morning but resolved as the day went on. Yesterday had 1 episode
of vomiting after breakfast. The headache was not very severe 
all
day, but she felt tired and weak so stayed in bed resting. The
headache got worse last night but she was able to sleep, and 
this
morning it returned and she felt lightheaded and weak. Took
Excedrin without relief. Tried to go to work today but tongue
felt strange posterior right side. Has had same feeling in 
tongue
before, couple months ago, comes with sharp headache, a/w
tingling in right face then (but not today). It causes her to
slur her words. She later vomited her lunch. She was getting out
of breath while speaking on the phone. At work and on her way to
the hospital, R eye got very blurry for a few minutes at a time,
like she had to keep rubbing it to clear it. She did try closing
either eye, and noticed her vision was normal in the left eye 
and
blurry only in the right eye. No diplopia, vertigo, or
oscillopsia. No photophobia, phonophobia or neck stiffness.
Today h/a bitemporal, frontal and bilateral occipital/neck. When
headache sharpness intensifies she gets a jolt of pain goes down
neck into back (mid-thoracic region). Intensity is now ___ 
after
Toradol. She has occipital tenderness off and on at baseline,
sometimes when she pushes on either side (currently left is
worse) occipital areas, she gets a shooting pain up over the 
side
of her head. She cannot elicit this currently but it does feel
tender in the location itself.

ROS:
+ occassional tingling in L hand
+ pain in left ear x couple days
+ right abdominal pain 
+ urinary frequency, +weight gain
No fevers, chills, sore throat, cough, chest pain, rashes. No
dysarthria, diplopia, dysphagia, language difficulties, gait
difficulties, focal weakness, bowel/bladder changes
 
Past Medical History:
- gallstone
- fibroid
- fibromyalgia
- ___ ?trigeminal neuralgia vs.
migraine, then headaches went away for several years

 
Social History:
___
Family History:
son has migraine s/p 
MGM at ___, maternal aunt <50 strokes. +heart disease. Brother 
had
blood clot in leg last year. Grandfather had ___.
 
Physical Exam:
Vitals: T: 98.6
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
There is paraspinal muscle spasm and mild tenderness on 
palpation
of L occipital process. No tenderness to percussion of 
vertebrae.

Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact comprehension. 
Normal prosody.  There were no paraphasic errors.  Pt. was able
to name both high and low frequency objects. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. Pt. was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. No RAPD. VFF to confrontation.
Funduscopic exam revealed no papilledema, exudates, or
hemorrhages. Vision acuity ___ b/l.
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch, pin, temp.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS. Intact
graphesthesia. 
Decreased pinprick on left upper extremity, both medial and
lateral sides of forearm, thenar and hypothenar eminence, dorsal
hand. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2+  2+   2    2+  1
R  2+  2+   2    2+  1
Plantar response was flexor bilaterally. Neg Hoffmans sign, no
clonus. No spread at pecs, no crossed adduction.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Limited due to lightheadedness. Romberg absent.

 
Pertinent Results:
___ 08:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 08:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:20PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:20PM URINE  RBC-4* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 06:20PM   GLUCOSE-95 UREA N-18 CREAT-1.0 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-30 ANION GAP-10
___ 06:20PM   CALCIUM-9.1 PHOSPHATE-3.4 MAGNESIUM-2.0
___ 06:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:20PM   WBC-6.9 RBC-4.35 HGB-12.2 HCT-38.2 MCV-88 
MCH-28.0 MCHC-31.8 RDW-13.9
___ 06:20PM   NEUTS-50.7 ___ MONOS-4.9 EOS-1.2 
BASOS-1.2
___ 06:20PM   ___ PTT-29.2 ___
 
Brief Hospital Course:
The patient was admitted for pain control. MRI brain and 
cervical spine were relatively unremarkable for cause of 
headache (formal reports pending at time of discharge). 

She was started on scheduled toradol, IVF, prn zofran and 
diazepam for muscle spasm with great improvement of symptoms. On 
further review of history, it seems that there have been many 
recent psychosocial stressors in family (death, financial 
concerns, etc) that may have contributed to headache 
exacerbation. She also endorsed poor sleep on daily basis - 
partly due to poor sleep hygeine. She describes early morning 
awakening with difficulty falling back asleep, and has a strong 
family history of OSA - she was told to discuss the possibility 
for mood disorder or OSA evaluation with PCP to help identify a 
cause for this. 

Her neurologic examination revealed ___ visual acuity in both 
eyes, no evidence of macular blind spot expansion, hypertension, 
papilledema, jaw claudication, temporal tenderness, or other 
focal or concerning neurologic findings. She was discharged with 
Rx for diazepam for muscle spasm and instructions to follow up 
with PCP and reestablish care with prior neurologist at ___ 
Vanguard within 1 month of disharge. 
 
Medications on Admission:
Motrin PRN
 
Discharge Medications:
1. diazepam 2 mg Tablet Sig: One (1) Tablet PO three times a day 
as needed for neck pain.
Disp:*30 Tablet(s)* Refills:*0*
2. ibuprofen 800 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for headache: take at onset of migraine 
headache.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine
Muscle Spasm
Tension Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
You were admitted to ___ for evaluation and management of your 
headaches. You had an MRI of your brain and cervical spine 
(neck) that did not show any abnormalities (although formal 
reports are pending at time of discharge). We feel that your 
headache is caused by a combination of migraine and 
tension/muscle spasm. There are many possible triggers for 
migraines and spasm that we discussed during this admission 
including poor sleep hygiene (TV in bedroom), irregular sleep 
schedule (related to sleeping late and waking up early), 
social/family stressors, and becoming dehydrated. 

For your sleep issues, please speak with your doctor for an 
evaluation of OSA, or "obstructive sleep apnea", as well as 
possible mood disorder/difficulty as these can both cause you to 
have poor sleep and as a result trigger a migraine. 

You were started on a medication called valium for muscle spasm 
which you should take for the next ___ weeks. Please make a 
follow up appointment with your PCP or your neurologist within 
this time frame to be re-evaluated and make a medication plan to 
manage your headaches. 

NEW MEDICATION: Diazepam 2mg by mouth three times per day as 
needed for muscle spasm.

It has been a pleasure to care for you.
 
Followup Instructions:
___